US03999991
d. Synthesis of 2-(3'-Aminobenzyl)hydroquinone
27 g of 1,4-dimethoxy-2-(3'-aminobenzyl)benzene prepared in (c) was mixed with a 46% hydrobromic acid aqueous solution. The mixture was refluxed on an oil bath for 1 to 2 hours. Since crystals deposited when cooled with ice, the filtration was carried out under cooling. The crystals were dissolved in 200 ml of water, and the resulting solution was neutralized by adding 25 g of sodium acetate. The free amine separated was recrystallized from an ethanol-benzene mixture to obtain 16 g of the subject compound. The melting point was 151° to 152° C.

reactant | 1,4-dimethoxy-2-(3'-aminobenzyl)benzene | 27 g | COC1=C(C=C(C=C1)OC)CC1=CC(=CC=C1)N | C15H17NO2
reactant | hydrobromic acid | Br | BrH
product | 2-(3'-Aminobenzyl)hydroquinone | 16 g | NC=1C=C(CC2=C(O)C=CC(=C2)O)C=CC1 | C13H13NO2
